US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-chloro-5-phenylisoxazole
4-Chloro-3-hydroxy-5-phenylisoxazole (0.58 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.48 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 1 (a) to obtain the title compound (0.73 g, 72%) as colorless crystals.

reactant | 4-Chloro-3-hydroxy-5-phenylisoxazole | 0.58 g | ClC=1C(=NOC1C1=CC=CC=C1)O | C9H6ClNO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.48 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-chloro-5-phenylisoxazole | 0.73 g, 72% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1Cl)C1=CC=CC=C1 | C16H19ClN2O4
